US05324747
A mixture of 10.9 g of 3-(octadecyloxy)-5-(3-phenoxypropoxy)phenylcarbamic acid phenylmethyl ester and 1.2 g of 10% palladium on carbon in 200 ml of THF and 50 ml of ethyl acetate was stirred under a hydrogen atmosphere at room temperature for 17 hours. The catalyst was removed by filtration and the filtrate was concentrated to a solid which was recrystallized from ethyl acetate-hexane to give 8.0 g (92% yield, mp 74°-76°) of 3-(octadecyloxy)-5-(3-phenoxypropoxy)benzenamine. The structure was confirmed by nmr and mass spectra.

reactant | 3-(octadecyloxy)-5-(3-phenoxypropoxy)phenylcarbamic acid phenylmethyl ester | 10.9 g | C1(=CC=CC=C1)COC(NC1=CC(=CC(=C1)OCCCOC1=CC=CC=C1)OCCCCCCCCCCCCCCCCCC)=O | C41H59NO5
catalyst | palladium on carbon | 1.2 g | [Pd] | Pd
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(octadecyloxy)-5-(3-phenoxypropoxy)benzenamine | 8.0 g, 92% yield | C(CCCCCCCCCCCCCCCCC)OC=1C=C(C=C(C1)OCCCOC1=CC=CC=C1)N | C33H53NO3
